US04650900
N4,N4 -diisopropyl-2,2-diphenyl-3-methyl-1,4-butanediamine
This compound was prepared from 3-cyano-3,3-diphenyl-2-methyl-N,N-diisopropyl-propanamide, essentially as described in Example 6, but per mole of starting material are used 3 moles of LiAlH4 and 3 moles of AlCl3, and the amide is added slowly to the reducing agent under reflux and while stirring, whereupon the mixture was refluxed for 8-16 hours.

reactant | 3-cyano-3,3-diphenyl-2-methyl-N,N-diisopropyl-propanamide | C(#N)C(C(C(=O)N(C(C)C)C(C)C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H28N2O
reactant | LiAlH4 | 3 moles | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | AlCl3 | 3 moles | [Al+3].[Cl-].[Cl-].[Cl-]
product | N4,N4 -diisopropyl-2,2-diphenyl-3-methyl-1,4-butanediamine | C(C)(C)N(CC(C(CN)(C1=CC=CC=C1)C1=CC=CC=C1)C)C(C)C | C23H34N2
